US08389523B2
20.0 g (126 mmol) of 2,6-difluoronitrobenzene and 17.0 g (138 mmol) of p-anisidine were dissolved in N,N-dimethylformamide (60 ml), and 20.8 g (150 mmol) of potassium carbonate was added thereto. The mixture was heated with stirring for 12 hours at 75° C. The reaction mixture was poured into water, and extracted with ethyl acetate. The extracted organic layer was washed with water, 10% hydrochloric acid, water, and a saturated aqueous solution of sodium chloride in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (developing solvent: ethyl acetate:hexane=1:9), to obtain 21.2 g (yield: 64%) of 3-fluoro-N-(4-methoxyphenyl)-2-nitroaniline as a brown liquid.

reactant | 2,6-difluoronitrobenzene | 126 mmol, 20.0 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | p-anisidine | 138 mmol, 17.0 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | potassium carbonate | 150 mmol, 20.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-fluoro-N-(4-methoxyphenyl)-2-nitroaniline | 21.2 g, yield: 64% | FC=1C(=C(NC2=CC=C(C=C2)OC)C=CC1)[N+](=O)[O-] | C13H11FN2O3
